US08580780B2
6-Allyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1 g, 3.9 mmol) in acetone (5 mL) and add powdered potassium carbonate (2.8 g, 20 mmol). Add dropwise a solution of allyl bromide (1.04 mL, 12 mmol) in acetone (3 mL) over 10 min and stir at ambient temperature overnight. Filter solids, wash with acetone and concentrate in vacuo to give the desired intermediate as an off-white solid (1.15 g, 98%). GC-MS m/z: 299 (M+).

reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.9 mmol, 1 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 12 mmol, 1.04 mL | C(C=C)Br | C3H5Br
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 6-Allyloxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.15 g, 98% | C(C=C)OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C15H16F3NO2
